US07550459B2
4-(3-Chloropropyl)-7-fluoro-4H-benzo[1.4]oxazin-3-one
A reaction flask was charged with 6,7-difluoro-4H-benzo[1.4]oxazin-3-one (1.5 g, 8.1 mmol), 1-chloro-3-iodopropane (1.44 g, 8.1 mmol), and Cs2CO3 (4.0 g, 12.2 mmol) in MeCN (10 mL) and stirred at rt for 40 h. The reaction mixture was concentrated, water added, and the product extracted into EtOAc. The combined organic phases were dried over Na2SO4, filtered, and concentrated. The product was purified by flash column chromatography (SiO2; n-heptane/EtOAc 2:1) to give the title compound (1.88 g, 89%). 1H NMR (CDCl3) d 6.99 (dd, J=8.0 Hz, J=5.6 Hz, 1H), 6.79-6.72 (m, 2H), 4.59 (s, 2H), 4.08 (t, J=7.2 Hz, 2H), 3.62 (t, J=6.0 Hz, 2H) 2.18-2.10 (m, 2H); 13C NMR (CDCl3) d 163.9, 159.1 (d, J=244.1 Hz), 146.4 (d, J=11.9 Hz), 124.9 (d, J=3.0 Hz), 115.4 (d, J=9.6 Hz), 109.5 (d, J=22.7 Hz), 105.4 (d, J=26.2 Hz), 67.7, 42.4, 39.2, 30.1.

reactant | 6,7-difluoro-4H-benzo[1.4]oxazin-3-one | 8.1 mmol, 1.5 g | FC=1C(=CC2=C(NC(CO2)=O)C1)F | C8H5F2NO2
reactant | 1-chloro-3-iodopropane | 8.1 mmol, 1.44 g | ClCCCI | C3H6ClI
reactant | Cs2CO3 | 12.2 mmol, 4.0 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | MeCN | 10 mL | CC#N | C2H3N
product | 4-(3-Chloropropyl)-7-fluoro-4H-benzo[1.4]oxazin-3-one | 1.88 g, 89% | ClCCCN1C(COC2=C1C=CC(=C2)F)=O | C11H11ClFNO2
